US08426411B2
To a solution of 5-tosyl-5H-pyrrolo[2,3-b]pyrazine-2-carbaldehyde (5.1 g, 17 mmol) in THF (100 mL) and water (33.3 mL) was added 3-bromoprop-1-ene (2.86 mL, 33.9 mmol) followed by indium (3.89 g, 33.9 mmol). The reaction mixture was stirred for about 15 h at ambient temperature and then aqueous HCl (1 N, 150 mL) and EtOAc (150 mL) were added. The organic layer was separated, dried over anhydrous Na2SO4, filtered, coned in vacuo and purified by chromatography on silica gel eluting with 20-60% EtOAc in heptane to provide 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-ol (4 g, 69%) as a thick oil: LC/MS (Table 1, Method a) Rt=2.30 min; MS m/z: 344 (M+H)+.

reactant | 5-tosyl-5H-pyrrolo[2,3-b]pyrazine-2-carbaldehyde | 17 mmol, 5.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)C=O | C14H11N3O3S
reactant | 3-bromoprop-1-ene | 33.9 mmol, 2.86 mL | BrCC=C | C3H5Br
reactant | indium | 33.9 mmol, 3.89 g | [In] | In
reactant | HCl | 1 N, 150 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 33.3 mL | O | H2O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)but-3-en-1-ol | 4 g, 69% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)C(CC=C)O | C17H17N3O3S
